US06331640B1
N-[2-chloro-4-[1-oxo-3-(3-hydroxyphenyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine;
N-[2-chloro-4-[1-hydroxy-3-(3-hydroxyp henyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine; N-[2-chloro-4-(1-oxo-3-phenylpropyl)benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine).

reactant | N-[2-chloro-4-[1-hydroxy-3-(3-hydroxyp henyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(CCC1=CC(=CC=C1)O)O | C24H23ClN2O6S
reactant | N-[2-chloro-4-(1-oxo-3-phenylpropyl)benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(CCC1=CC=CC=C1)=O | C24H21ClN2O5S
product | N-[2-chloro-4-[1-oxo-3-(3-hydroxyphenyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(CCC1=CC(=CC=C1)O)=O | C24H21ClN2O6S
